US08603726B2
A reactor was charged with 0.26 g (1 mmol) of acetylacetonatodicarbonylrhodium, 0.52 g (2 mmol) of triphenylphosphine, and 200 ml of tetrahydrofuran (THF). The mixture was stirred for 10 minutes in a nitrogen atmosphere. After the dropwise addition of 10.54 g (130 mmol) of a 37% formaldehyde aqueous solution and 11.31 g (100 mmol) of ethyl 2-cyanoacetate, the mixture was reacted at 25° C. for 16 hours with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate (=10/1)) to obtain 9.16 g of ethyl 2-cyano-3-hydroxypropanoate shown by the following formula (M-18′) (yield: 64%).

reactant | triphenylphosphine | 2 mmol, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formaldehyde | C=O | CH2O
reactant | ethyl 2-cyanoacetate | 100 mmol, 11.31 g | C(#N)CC(=O)OCC | C5H7NO2
catalyst | acetylacetonatodicarbonylrhodium | 1 mmol, 0.26 g | C/C(=C/C(=O)C)/O.[C-]#[O+].[C-]#[O+].[Rh]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 2-cyano-3-hydroxypropanoate | 9.16 g, yield: 64% | C(#N)C(C(=O)OCC)CO | C6H9NO3
